US08114877B2
a) 4-Trimethylsilanylethynyl-1H-pyrazole
4-Iodo-1H-pyrazole (20.0 g, 103 mmol) is dissolved in anhydrous THF (150 ml) and trimethylsilyl acetylene (72.8 ml, 515 mmol) is added under an inert atmosphere. Diethyl-amine (150 ml), bis-(triphenylphosphine) palladium (II) chloride (10.8 g, 15 mmol) and copper iodide (2.9 g, 15 mmol) are added and the reaction mixture is left to stir at room temperature for 3 hours. The solvent is removed under reduced pressure. The residue is dissolved in diethyl ether and the insoluble impurities are filtered off. The solvent is removed under reduced pressure. The residue is dissolved in methanol and the insoluble impurities removed. The solvent is removed under reduced pressure. The residue is purified by dry flash chromatography on silica gel eluting with a gradient system of diethyl ether: iso-hexane (20:80 to 100:0) to afford the title compound [MH+] 165.07 1H NMR (DMSO): 0.00 (s, 9H), 7.45 (s, 1H), 7.90 (s, 1H), 12.90 (br s, 1H)

reactant | 4-Iodo-1H-pyrazole | 103 mmol, 20.0 g | IC=1C=NNC1 | C3H3IN2
reactant | trimethylsilyl acetylene | 515 mmol, 72.8 ml | C[Si](C)(C)C#C | C5H10Si
reactant | Diethyl-amine | 150 ml | C(C)NCC | C4H11N
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | bis-(triphenylphosphine) palladium (II) chloride | 15 mmol, 10.8 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper iodide | 15 mmol, 2.9 g | [Cu](I)I
product | 4-Trimethylsilanylethynyl-1H-pyrazole | C[Si](C)(C)C#CC=1C=NNC1 | C8H12N2Si
